US07981903B2
A solution of N1-(4-fluoro-3-nitrophenyl)-N2,N2-dimethylglycinamide (3.0 g, 12.4 mmol) , 10% Pd/C (˜0.500 g, Lancaster) in absolute ethanol (100 mL) was stirred under 50 psi H2(g) overnight. The catalyst was removed by vacuum filtration through a celite pad, rinsed with methanol, and the filtrate was concentrated under reduced pressure to give N1-(3-amino-4-fluorophenyl)-N2,N2-dimethylglycinamide (2.23 g, 85%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.22 (s, 6 H) 2.97 (s, 2 H) 5.09 (s, 2 H) 6.64 (ddd, J=8.74, 3.98, 2.66 Hz, 1 H) 6.83 (dd, J=11.26, 8.70 Hz, 1 H) 7.15 (dd, J=8.42, 2.56 Hz, 1 H) 9.40 (s, 1 H).

reactant | N1-(4-fluoro-3-nitrophenyl)-N2,N2-dimethylglycinamide | 12.4 mmol, 3.0 g | FC1=C(C=C(C=C1)NC(CN(C)C)=O)[N+](=O)[O-] | C10H12FN3O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | ˜0.500 g | [Pd] | Pd
product | N1-(3-amino-4-fluorophenyl)-N2,N2-dimethylglycinamide | 2.23 g, 85% | NC=1C=C(C=CC1F)NC(CN(C)C)=O | C10H14FN3O
